US07074817B2
Ethyl 2-{1-benzyl-5-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}-2-oxoacetate was prepared from 1-Benzyl-5-[4-(trifluoromethyl)phenyl]-1H-indole (0.307 g, 0.874 mmol), oxalyl chloride (0.29 mL, 3.3 mmol), and ethanol (3 mL) following the procedure described in Step 3 of Example 1. The compound was purified by flash chromatography using 10-20% ethyl acetate in hexane as an eluant and dried for 20 minutes at 60° C. to give a light yellow solid (0.249 g, 63%), mp: 99-100° C. 1 HNMR (200 MHz, DMSO-d6): δ 8.8 (s, 1H), 8.5 (s, 1H), 7.6-7.95 (m, 6H), 7.25-7.4 (m, 5H), 5.65 (s, 2H), 4.35 (q, 2H, J=7.7 Hz), and 1.35 ppm (t, 3H, J=7.7 Hz).

reactant | 1-Benzyl-5-[4-(trifluoromethyl)phenyl]-1H-indole | 0.874 mmol, 0.307 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C22H16F3N
reactant | oxalyl chloride | 3.3 mmol, 0.29 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 3 mL | C(C)O | C2H6O
product | Ethyl 2-{1-benzyl-5-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}-2-oxoacetate | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO3
